US07148245B2
(a) 2,2-Dimethyl-[1,3]dioxolan-4-ylmethyl 4-toluene-sulphonate (racemic)
5.29 g (40.0 mmol) of (2,2-dimethyl-[1,3]dioxolan-4-yl)methanol (Solketal®) and 10 ml of pyridine are introduced into a round-bottomed flask under an argon atmosphere. The mixture is cooled to 0° C., 8.39 g (44.0 mmol) of para-toluenesulphonic acid are added and the mixture is stirred for sixteen hours at room temperature. The reaction medium is poured into a 1N HCl/ethyl ether mixture, extracted with ethyl ether, washed with water, dried over magnesium sulphate and evaporated. The residue obtained is purified by chromatography on a column of silica eluted with dichloromethane. After evaporation of the solvents, 9.70 g (85%) of the expected product are collected in the form of yellow crystals with a melting point of 45–47° C.

reactant | (2,2-dimethyl-[1,3]dioxolan-4-yl)methanol | 40.0 mmol, 5.29 g | CC1(OCC(O1)CO)C | C6H12O3
reactant | para-toluenesulphonic acid | 44.0 mmol, 8.39 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | HCl ethyl ether | 1N | Cl.C(C)OCC
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 2,2-Dimethyl-[1,3]dioxolan-4-ylmethyl 4-toluene-sulphonate | C1(=CC=C(C=C1)S(=O)(=O)OCC1OC(OC1)(C)C)C | C13H18O5S
